************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: SA_v2
* View Name:     schematic
* Netlisted on:  Jan 13 20:57:59 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    std_inverter
* View Name:    schematic
************************************************************************

.SUBCKT std_inverter GND VDD X Y
*.PININFO X:I Y:O GND:B VDD:B
MNM0 Y X GND GND n18 W=220n L=180n m=1
MPM0 Y X VDD VDD p18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    SA_v2
* View Name:    schematic
************************************************************************

.SUBCKT SA_v2 BIT GND INVBIT OUT SAEN VDD
*.PININFO BIT:I INVBIT:I SAEN:I OUT:O GND:B VDD:B
MNM2 net32 BIT net29 GND n18 W=440n L=180n m=1
MNM5 net09 INVBIT net32 GND n18 W=440n L=180n m=1
MNM6 net32 SAEN GND GND n18 W=880n L=180n m=1
MPM1 VDD net29 net09 VDD p18 W=3.3u L=180n m=1
MPM2 net29 net29 VDD VDD p18 W=3.3u L=180n m=1
XI1 GND VDD net019 OUT / std_inverter
XI0 GND VDD net09 net019 / std_inverter
.ENDS

