************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: SRAM_8_16
* View Name:     schematic
* Netlisted on:  Jan 15 23:18:36 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    Precharger
* View Name:    schematic
************************************************************************

.SUBCKT Precharger BIT INVBIT PCEN VDD
*.PININFO PCEN:I BIT:B INVBIT:B VDD:B
MPM0 VDD PCEN BIT VDD p18 W=440n L=180n m=1
MPM1 INVBIT PCEN VDD VDD p18 W=440n L=180n m=1
MPM2 BIT PCEN INVBIT VDD p18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    Bitcell
* View Name:    schematic
************************************************************************

.SUBCKT Bitcell BIT GND INVBIT VDD WL
*.PININFO WL:I BIT:B GND:B INVBIT:B VDD:B
MNM1 net16 net15 GND GND n18 W=800n L=180n m=1
MNM0 GND net16 net15 GND n18 W=800n L=180n m=1
MNM3 INVBIT WL net16 GND n18 W=440n L=180n m=1
MNM2 net15 WL BIT GND n18 W=440n L=180n m=1
MPM1 net16 net15 VDD VDD p18 W=220n L=180n m=1
MPM0 VDD net16 net15 VDD p18 W=220n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    Wdrive
* View Name:    schematic
************************************************************************

.SUBCKT Wdrive BIT DATA GND INVBIT VDD WEN
*.PININFO DATA:I WEN:I BIT:B GND:B INVBIT:B VDD:B
MNM1 net79 WEN BIT GND n18 W=1.76u L=180n m=1
MNM3 INVBIT WEN net78 GND n18 W=1.76u L=180n m=1
MNM5 net72 DATA GND GND n18 W=220n L=180n m=1
MNM0 net76 net72 GND GND n18 W=220n L=180n m=1
MNM2 GND net72 net79 GND n18 W=1.76u L=180n m=1
MNM4 net78 net76 GND GND n18 W=1.76u L=180n m=1
MPM0 net72 DATA VDD VDD p18 W=440n L=180n m=1
MPM1 net76 net72 VDD VDD p18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    std_inverter
* View Name:    schematic
************************************************************************

.SUBCKT std_inverter GND VDD X Y
*.PININFO X:I Y:O GND:B VDD:B
MNM0 Y X GND GND n18 W=220n L=180n m=1
MPM0 Y X VDD VDD p18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    SA_v2
* View Name:    schematic
************************************************************************

.SUBCKT SA_v2 BIT GND INVBIT OUT SAEN VDD
*.PININFO BIT:I INVBIT:I SAEN:I OUT:O GND:B VDD:B
MNM2 net32 BIT net29 GND n18 W=440n L=180n m=1
MNM5 net09 INVBIT net32 GND n18 W=440n L=180n m=1
MNM6 net32 SAEN GND GND n18 W=880n L=180n m=1
MPM1 VDD net29 net09 VDD p18 W=3.3u L=180n m=1
MPM2 net29 net29 VDD VDD p18 W=3.3u L=180n m=1
XI1 GND VDD net019 OUT / std_inverter
XI0 GND VDD net09 net019 / std_inverter
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    SRAM_Col_8bit
* View Name:    schematic
************************************************************************

.SUBCKT SRAM_Col_8bit ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 BIT DATA GND 
+ INVBIT OUT PCEN SAEN VDD WEN
*.PININFO ADD0:I ADD1:I ADD2:I ADD3:I ADD4:I ADD5:I ADD6:I ADD7:I DATA:I 
*.PININFO PCEN:I SAEN:I WEN:I BIT:O INVBIT:O OUT:O GND:B VDD:B
XI0 BIT INVBIT PCEN VDD / Precharger
XI8 BIT GND INVBIT VDD ADD7 / Bitcell
XI7 BIT GND INVBIT VDD ADD6 / Bitcell
XI6 BIT GND INVBIT VDD ADD5 / Bitcell
XI5 BIT GND INVBIT VDD ADD4 / Bitcell
XI4 BIT GND INVBIT VDD ADD3 / Bitcell
XI3 BIT GND INVBIT VDD ADD2 / Bitcell
XI2 BIT GND INVBIT VDD ADD1 / Bitcell
XI1 BIT GND INVBIT VDD ADD0 / Bitcell
XI9 BIT DATA GND INVBIT VDD WEN / Wdrive
XI12 BIT GND INVBIT OUT SAEN VDD / SA_v2
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    NOR3
* View Name:    schematic
************************************************************************

.SUBCKT NOR3 A B C GND VDD VOUT
*.PININFO A:I B:I C:I VOUT:O GND:B VDD:B
MNM2 VOUT C GND GND n18 W=220n L=180n m=1
MNM0 VOUT A GND GND n18 W=220n L=180n m=1
MNM1 VOUT B GND GND n18 W=220n L=180n m=1
MPM2 VOUT C net46 VDD p18 W=1.32u L=180n m=1
MPM1 net45 A VDD VDD p18 W=1.32u L=180n m=1
MPM0 net46 B net45 VDD p18 W=1.32u L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    38Decoder
* View Name:    schematic
************************************************************************

.SUBCKT 38Decoder ADD0 ADD1 ADD2 GND O0 O1 O2 O3 O4 O5 O6 O7 VDD
*.PININFO ADD0:I ADD1:I ADD2:I O0:O O1:O O2:O O3:O O4:O O5:O O6:O O7:O GND:B 
*.PININFO VDD:B
XI2 GND VDD ADD2 INVADD2 / std_inverter
XI1 GND VDD ADD1 INVADD1 / std_inverter
XI0 GND VDD ADD0 INVADD0 / std_inverter
XI10 INVADD0 INVADD1 INVADD2 GND VDD O7 / NOR3
XI9 ADD0 INVADD1 INVADD2 GND VDD O6 / NOR3
XI8 INVADD0 ADD1 INVADD2 GND VDD O5 / NOR3
XI7 ADD0 ADD1 INVADD2 GND VDD O4 / NOR3
XI6 INVADD0 INVADD1 ADD2 GND VDD O3 / NOR3
XI5 ADD0 INVADD1 ADD2 GND VDD O2 / NOR3
XI4 INVADD0 ADD1 ADD2 GND VDD O1 / NOR3
XI3 ADD0 ADD1 ADD2 GND VDD O0 / NOR3
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    Buffer
* View Name:    schematic
************************************************************************

.SUBCKT Buffer GND VDD X Y
*.PININFO X:I Y:O GND:B VDD:B
MPM1 Y net13 VDD VDD p18 W=1.76u L=180n m=1
MPM0 net13 X VDD VDD p18 W=1.76u L=180n m=1
MNM1 Y net13 GND GND n18 W=880n L=180n m=1
MNM0 net13 X GND GND n18 W=880n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B GND VDD VOUT
*.PININFO A:I B:I VOUT:O GND:B VDD:B
MNM0 VOUT A net41 GND n18 W=440n L=180n m=1
MNM1 net41 B GND GND n18 W=440n L=180n m=1
MPM1 VOUT B VDD VDD p18 W=440n L=180n m=1
MPM0 VOUT A VDD VDD p18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    MUX2_SC
* View Name:    schematic
************************************************************************

.SUBCKT MUX2_SC GND I0 I1 OUT S VDD
*.PININFO I0:I I1:I S:I OUT:O GND:B VDD:B
MPM6 net026 I1 VDD VDD p18 W=440n L=180n m=1
MPM5 net014 I0 VDD VDD p18 W=440n L=180n m=1
MPM4 OUT net014 net18 VDD p18 W=880n L=180n m=1
MPM3 net18 S VDD VDD p18 W=880n L=180n m=1
MPM2 OUT net026 net19 VDD p18 W=880n L=180n m=1
MPM1 net19 net11 VDD VDD p18 W=880n L=180n m=1
MPM0 net11 S VDD VDD p18 W=440n L=180n m=1
MNM8 net026 I1 GND GND n18 W=220n L=180n m=1
MNM7 net014 I0 GND GND n18 W=220n L=180n m=1
MNM4 net11 S GND GND n18 W=220n L=180n m=1
MNM6 net15 net014 GND GND n18 W=440n L=180n m=1
MNM5 net15 S GND GND n18 W=440n L=180n m=1
MNM1 OUT net026 net15 GND n18 W=440n L=180n m=1
MNM0 OUT net11 net15 GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    AND2_SC
* View Name:    schematic
************************************************************************

.SUBCKT AND2_SC A B GND VDD VOUT
*.PININFO A:I B:I VOUT:O GND:B VDD:B
MPM2 VOUT net15 VDD VDD p18 W=440n L=180n m=1
MPM1 net15 B VDD VDD p18 W=440n L=180n m=1
MPM0 net15 A VDD VDD p18 W=440n L=180n m=1
MNM2 VOUT net15 GND GND n18 W=220n L=180n m=1
MNM1 net25 B GND GND n18 W=440n L=180n m=1
MNM0 net15 A net25 GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    Buffer2
* View Name:    schematic
************************************************************************

.SUBCKT Buffer2 GND VDD X Y
*.PININFO X:I Y:O GND:B VDD:B
MNM1 Y net28 GND GND n18 W=220n L=180n m=1
MNM0 net28 X GND GND n18 W=220n L=180n m=1
MPM1 Y net28 VDD VDD p18 W=440n L=180n m=1
MPM0 net28 X VDD VDD p18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    Buffer3
* View Name:    schematic
************************************************************************

.SUBCKT Buffer3 GND VDD X Y
*.PININFO X:I Y:O GND:B VDD:B
MNM1 Y net28 GND GND n18 W=1.76u L=180n m=1
MNM0 net28 X GND GND n18 W=1.76u L=180n m=1
MPM1 Y net28 VDD VDD p18 W=3.52u L=180n m=1
MPM0 net28 X VDD VDD p18 W=3.52u L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    SRAM_DRV
* View Name:    schematic
************************************************************************

.SUBCKT SRAM_DRV ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 CLK CLKREG GND MODE 
+ PCEN SAEN VDD WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7
*.PININFO ADD0:I ADD1:I ADD2:I ADD3:I ADD4:I ADD5:I ADD6:I ADD7:I CLK:I MODE:I 
*.PININFO CLKREG:O PCEN:O SAEN:O WL0:O WL1:O WL2:O WL3:O WL4:O WL5:O WL6:O 
*.PININFO WL7:O GND:B VDD:B
XI131 GND VDD net0150 net0158 / Buffer
XI130 GND VDD net034 SAEN / Buffer
XI128 GND VDD net047 PCEN / Buffer
XI91 GND VDD net0125 net0127 / Buffer
XI90 GND VDD net0128 net058 / Buffer
XI85 GND VDD net060 net059 / Buffer
XI81 GND VDD net061 net062 / Buffer
XI78 GND VDD net064 net063 / Buffer
XI77 GND VDD net065 net066 / Buffer
XI75 GND VDD net074 net073 / Buffer
XI73 GND VDD net0111 net0110 / Buffer
XI72 GND VDD net85 net0111 / Buffer
XI116 GND VDD net109 net086 / Buffer
XI68 GND VDD net057 net052 / Buffer
XI65 GND VDD net75 net74 / Buffer
XI64 GND VDD net76 net75 / Buffer
XI52 GND VDD net77 net76 / Buffer
XI51 GND VDD net70 net77 / Buffer
XI56 GND VDD net78 net70 / Buffer
XI55 GND VDD net79 net78 / Buffer
XI54 GND VDD net72 net79 / Buffer
XI53 GND VDD net80 net72 / Buffer
XI60 GND VDD net81 net80 / Buffer
XI57 GND VDD net82 net81 / Buffer
XI59 GND VDD net83 net82 / Buffer
XI58 GND VDD net84 net83 / Buffer
XI62 GND VDD net86 net84 / Buffer
XI61 GND VDD net0110 net86 / Buffer
XI50 GND VDD net034 net85 / Buffer
XI126 GND VDD net069 net0150 / Buffer
XI125 GND VDD net0151 net069 / Buffer
XI124 GND VDD net74 net0151 / Buffer
XI123 GND VDD net96 net0144 / Buffer
XI122 GND VDD net98 net071 / Buffer
XI121 GND VDD net100 net0134 / Buffer
XI120 GND VDD net102 net0140 / Buffer
XI119 GND VDD net081 net080 / Buffer
XI118 GND VDD net105 net083 / Buffer
XI117 GND VDD net106 net087 / Buffer
XI35 GND VDD net0127 net96 / Buffer
XI30 GND VDD net058 net98 / Buffer
XI23 GND VDD net059 net100 / Buffer
XI18 GND VDD net062 net102 / Buffer
XI12 GND VDD net063 net081 / Buffer
XI7 GND VDD net066 net105 / Buffer
XI2 GND VDD net073 net106 / Buffer
XI94 GND VDD net052 net109 / Buffer
XI87 GND VDD net113 net112 / Buffer
XI88 GND VDD net112 net111 / Buffer
XI84 GND VDD net116 net113 / Buffer
XI83 GND VDD net114 net116 / Buffer
XI82 GND VDD net115 net114 / Buffer
XI99 GND VDD net117 net115 / Buffer
XI13 GND VDD net118 net117 / Buffer
XI26 GND VDD net119 net118 / Buffer
XI27 GND VDD CLK net119 / Buffer
XI66 GND VDD net0158 net73 / std_inverter
XI36 GND VDD net0144 net59 / std_inverter
XI31 GND VDD net071 net60 / std_inverter
XI24 GND VDD net0134 net61 / std_inverter
XI19 GND VDD net0140 net62 / std_inverter
XI14 GND VDD net080 net63 / std_inverter
XI8 GND VDD net083 net64 / std_inverter
XI3 GND VDD net087 net65 / std_inverter
XI95 GND VDD net086 net66 / std_inverter
XI44 GND VDD net111 net69 / std_inverter
XI114 net69 CLK GND VDD net110 / NAND
XI96 GND net112 GND net034 MODE VDD / MUX2_SC
XI38 GND net0137 ADD7 WL7 MODE VDD / MUX2_SC
XI33 GND net068 ADD6 WL6 MODE VDD / MUX2_SC
XI28 GND net070 ADD5 WL5 MODE VDD / MUX2_SC
XI21 GND net072 ADD4 WL4 MODE VDD / MUX2_SC
XI16 GND net0136 ADD3 WL3 MODE VDD / MUX2_SC
XI10 GND net075 ADD2 WL2 MODE VDD / MUX2_SC
XI5 GND net077 ADD1 WL1 MODE VDD / MUX2_SC
XI115 GND net079 ADD0 WL0 MODE VDD / MUX2_SC
XI0 GND net110 VDD net047 MODE VDD / MUX2_SC
XI67 net73 net77 GND VDD net0155 / AND2_SC
XI37 net0125 net59 GND VDD net107 / AND2_SC
XI105 net107 ADD7 GND VDD net0137 / AND2_SC
XI32 net0128 net60 GND VDD net97 / AND2_SC
XI104 net97 ADD6 GND VDD net068 / AND2_SC
XI25 net060 net61 GND VDD net101 / AND2_SC
XI103 net101 ADD5 GND VDD net070 / AND2_SC
XI20 net061 net62 GND VDD net67 / AND2_SC
XI102 net67 ADD4 GND VDD net072 / AND2_SC
XI15 net064 net63 GND VDD net99 / AND2_SC
XI101 net99 ADD3 GND VDD net0136 / AND2_SC
XI9 net065 net64 GND VDD net103 / AND2_SC
XI100 net103 ADD2 GND VDD net075 / AND2_SC
XI4 net074 net65 GND VDD net104 / AND2_SC
XI98 net104 ADD1 GND VDD net077 / AND2_SC
XI93 net057 net66 GND VDD net108 / AND2_SC
XI97 net108 ADD0 GND VDD net079 / AND2_SC
XI107 GND VDD net047 net074 / Buffer2
XI108 GND VDD net047 net065 / Buffer2
XI109 GND VDD net047 net064 / Buffer2
XI110 GND VDD net047 net061 / Buffer2
XI111 GND VDD net047 net060 / Buffer2
XI112 GND VDD net047 net0128 / Buffer2
XI113 GND VDD net047 net0125 / Buffer2
XI106 GND VDD net047 net057 / Buffer2
XI129 GND VDD net0155 CLKREG / Buffer3
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    DEC_AND
* View Name:    schematic
************************************************************************

.SUBCKT DEC_AND A0 A1 A2 A3 A4 A5 A6 A7 CLK GND O0 O1 O2 O3 O4 O5 O6 O7 VDD
*.PININFO A0:I A1:I A2:I A3:I A4:I A5:I A6:I A7:I CLK:I O0:O O1:O O2:O O3:O 
*.PININFO O4:O O5:O O6:O O7:O GND:B VDD:B
XI8 A4 CLK GND VDD O4 / AND2_SC
XI7 A6 CLK GND VDD O6 / AND2_SC
XI6 A7 CLK GND VDD O7 / AND2_SC
XI5 A5 CLK GND VDD O5 / AND2_SC
XI4 A2 CLK GND VDD O2 / AND2_SC
XI3 A3 CLK GND VDD O3 / AND2_SC
XI1 A1 CLK GND VDD O1 / AND2_SC
XI0 A0 CLK GND VDD O0 / AND2_SC
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    SRAM_8_16
* View Name:    schematic
************************************************************************

.SUBCKT SRAM_8_16 A0 A1 A2 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B0 B1 B2 B3 
+ B4 B5 B6 B7 B8 B9 B10 B11 B12 B13 B14 B15 CLK CLKREG D0 D1 D2 D3 D4 D5 D6 D7 
+ D8 D9 D10 D11 D12 D13 D14 D15 GND INVB0 INVB1 INVB2 INVB3 INVB4 INVB5 INVB6 
+ INVB7 INVB8 INVB9 INVB10 INVB11 INVB12 INVB13 INVB14 INVB15 MODE O0 O1 O2 O3 
+ O4 O5 O6 O7 O8 O9 O10 O11 O12 O13 O14 O15 PCEN SAEN VDD
*.PININFO A0:I A1:I A2:I CLK:I D0:I D1:I D2:I D3:I D4:I D5:I D6:I D7:I D8:I 
*.PININFO D9:I D10:I D11:I D12:I D13:I D14:I D15:I MODE:I ADD0:O ADD1:O ADD2:O 
*.PININFO ADD3:O ADD4:O ADD5:O ADD6:O ADD7:O B0:O B1:O B2:O B3:O B4:O B5:O 
*.PININFO B6:O B7:O B8:O B9:O B10:O B11:O B12:O B13:O B14:O B15:O CLKREG:O 
*.PININFO INVB0:O INVB1:O INVB2:O INVB3:O INVB4:O INVB5:O INVB6:O INVB7:O 
*.PININFO INVB8:O INVB9:O INVB10:O INVB11:O INVB12:O INVB13:O INVB14:O 
*.PININFO INVB15:O O0:O O1:O O2:O O3:O O4:O O5:O O6:O O7:O O8:O O9:O O10:O 
*.PININFO O11:O O12:O O13:O O14:O O15:O PCEN:O SAEN:O GND:B VDD:B
XI15 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B8 D8 GND INVB8 O8 PCEN SAEN VDD 
+ MODE / SRAM_Col_8bit
XI14 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B12 D12 GND INVB12 O12 PCEN SAEN 
+ VDD MODE / SRAM_Col_8bit
XI13 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B14 D14 GND INVB14 O14 PCEN SAEN 
+ VDD MODE / SRAM_Col_8bit
XI12 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B15 D15 GND INVB15 O15 PCEN SAEN 
+ VDD MODE / SRAM_Col_8bit
XI11 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B13 D13 GND INVB13 O13 PCEN SAEN 
+ VDD MODE / SRAM_Col_8bit
XI10 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B10 D10 GND INVB10 O10 PCEN SAEN 
+ VDD MODE / SRAM_Col_8bit
XI9 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B11 D11 GND INVB11 O11 PCEN SAEN 
+ VDD MODE / SRAM_Col_8bit
XI8 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B9 D9 GND INVB9 O9 PCEN SAEN VDD 
+ MODE / SRAM_Col_8bit
XI7 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B4 D4 GND INVB4 O4 PCEN SAEN VDD 
+ MODE / SRAM_Col_8bit
XI6 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B6 D6 GND INVB6 O6 PCEN SAEN VDD 
+ MODE / SRAM_Col_8bit
XI5 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B7 D7 GND INVB7 O7 PCEN SAEN VDD 
+ MODE / SRAM_Col_8bit
XI4 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B5 D5 GND INVB5 O5 PCEN SAEN VDD 
+ MODE / SRAM_Col_8bit
XI3 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B2 D2 GND INVB2 O2 PCEN SAEN VDD 
+ MODE / SRAM_Col_8bit
XI2 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B3 D3 GND INVB3 O3 PCEN SAEN VDD 
+ MODE / SRAM_Col_8bit
XI1 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B1 D1 GND INVB1 O1 PCEN SAEN VDD 
+ MODE / SRAM_Col_8bit
XI0 ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 B0 D0 GND INVB0 O0 PCEN SAEN VDD 
+ MODE / SRAM_Col_8bit
XI16 A0 A1 A2 GND net148 net149 net150 net151 net152 net153 net154 net155 VDD 
+ / 38Decoder
XI17 net085 net084 net083 net082 net081 net080 net079 net078 CLK CLKREG GND 
+ MODE PCEN SAEN VDD ADD0 ADD1 ADD2 ADD3 ADD4 ADD5 ADD6 ADD7 / SRAM_DRV
XI34 net148 net149 net150 net151 net152 net153 net154 net155 CLK GND net085 
+ net084 net083 net082 net081 net080 net079 net078 VDD / DEC_AND
.ENDS

